US04208513
A mixture comprising 290.6 g of 65% nitric acid and 800 g of glacial acetic acid is cooled to 0° C., and at 0° to 4° C. there is added in the course of 11/2 hours, with thorough stirring and with cooling, a solution of 375.6 g of sec-butylphenol in 375 g of glacial acetic acid. There results a dark solution which is stirred at 0° to 4° C. for a further one hour. The reaction mixture is subsequently stirred into 5000 ml of water and ice. The nitrating mixture is obtained as a dark oil which is extracted with 1500 ml of chloroform. The chloroform is distilled off, and steam is passed into the dark oil obtained. As distillate is obtained 235 g of 2-nitro-6-sec-butylphenol in the form of light-yellow oil.

reactant | nitric acid | 290.6 g | [N+](=O)(O)[O-] | HNO3
reactant | sec-butylphenol | 375.6 g | C(C)(CC)C1=C(C=CC=C1)O | C10H14O
reactant | water | 5000 ml | O | H2O
solvent | acetic acid | 375 g | C(C)(=O)O | C2H4O2
solvent | acetic acid | 800 g | C(C)(=O)O | C2H4O2
product | 2-nitro-6-sec-butylphenol | 235 g | [N+](=O)([O-])C1=C(C(=CC=C1)C(C)CC)O | C10H13NO3
